US05057534
3-(Butylamino)-5-(4-chlorophenyl)-1H-pyrazole-4-acetic acid butyl ester
A mixture of 5.9 g (0.04 mole) of 4-butyl-3-thiosemicarbazide, 3.3 ml (0.04 mole) of 37% hydrochloric acid and 10.5 g (0.04 mole) of methyl 3-(4-chlorobenzoyl)-3-chloropropionate in 150 ml of 1-butanol was stirred at ambient temperature for 4 hours and heated at reflux for 40 hours. The reaction mixture was diluted with 50 ml of water, filtered to remove the inorganic sulfur, then concentrated in vacuo (19 g). The residue was placed on a 400 g Florisil column and eluted with benzene then with an acetone:benzene gradient (0.5 to 10%). The product fractions were combined and concentrated in vacuo to give 15.2 g of pale yellow solid. Recrystallization from 2-propanol yielded 2 g (14%) of fluffy white crystals, mp 130°-130.5° C.

reactant | 4-butyl-3-thiosemicarbazide | 0.04 mole, 5.9 g | C(CCC)NC(NN)=S | C5H13N3S
reactant | hydrochloric acid | 0.04 mole, 3.3 ml | Cl | ClH
reactant | methyl 3-(4-chlorobenzoyl)-3-chloropropionate | 0.04 mole, 10.5 g | ClC1=CC=C(C(=O)C(CC(=O)OC)Cl)C=C1 | C11H10Cl2O3
reactant | 1-butanol | 150 ml | C(CCC)O | C4H10O
solvent | water | 50 ml | O | H2O
product | 3-(Butylamino)-5-(4-chlorophenyl)-1H-pyrazole-4-acetic acid butyl ester | 15.2 g | C(CCC)OC(CC=1C(=NNC1C1=CC=C(C=C1)Cl)NCCCC)=O | C19H26ClN3O2
